US06858638B2
3-(1H-Benzimidazol-2-yl)-5-nitro-1-(2-trimethylsilanylethoxymethyl)-1H-indazole can be obtained in the following way: a suspension of 720 mg of 5-nitro-1-(2-trimethylsilanylethoxymethyl)-1H-indazole-3-carboxaldehyde, of 216 mg of 1,2-phenylenediamine and of 77 mg of sulfur (0) in 70 ml of anhydrous dimethylformamide is heated at 95° C. for 16 hours. After returning to a temperature in the region of 20° C., the reaction medium is concentrated to dryness under reduced pressure and the evaporation residue is taken up with 20 ml of distilled water and 20 ml of ethyl acetate. The insoluble material floating at the surface is isolated by filtration, washed and dried and makes it possible to obtain a first crop of 160 mg of of 3-(1H-benzimidazol-2-yl)-5-nitro-1-(2-trimethylsilanylethoxymethyl)-1H-indazole in the form of a yellow solid (Rf=0.22, silica gel thin layer chromatography, eluent: cyclohexane/ethyl acetate (75/25 by volume)). The filtrate is concentrated to dryness under reduced pressure and the solid residue is resuspended in a cyclohexane/ethyl acetate (80/20 by volume) mixture, isolated by filtration, washed and dried. A second crop of 200 mg of 3-(1H-benzimidazol-2-yl)-5-nitro-1-(2-trimethylsilanylethoxymethyl)-1H-indazole is thus obtained in the form of an orangey solid with the same Rf as the first crop (mass analysis: CI: m/z 410 (M+H)+)+ (base peak)).

reactant | 5-nitro-1-(2-trimethylsilanylethoxymethyl)-1H-indazole-3-carboxaldehyde | 720 mg | [N+](=O)([O-])C=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)C=O | C14H19N3O4Si
reactant | 1,2-phenylenediamine | 216 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sulfur (0) | 77 mg | [S] | S
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 3-(1H-benzimidazol-2-yl)-5-nitro-1-(2-trimethylsilanylethoxymethyl)-1H-indazole | N1C(=NC2=C1C=CC=C2)C2=NN(C1=CC=C(C=C21)[N+](=O)[O-])COCC[Si](C)(C)C | C20H23N5O3Si
